US08053456B2
A flask was charged with N-[6-ethyl-3,5-dimethoxy-pyridine-2-carboxamidyl]-N′-(1-Methyl-1H-indol-5-yl)-thiourea (41 mg; 0.10 mmol), and one normal aqueous sodium hydroxide (2 mL), and the reaction was stirred at reflux under nitrogen for three hours. The reaction was then cooled, adjusted to pH=7 with one normal hydrochloric acid, and the precipitate was extracted with dichloromethane (2×6 mL). The organic layers were dried with sodium sulfate, and evaporated to give quantitative yield of 5-(6-Ethyl-3,5-dimethoxy-pyridin-2-yl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazole-3-thiol.

reactant | N-[6-ethyl-3,5-dimethoxy-pyridine-2-carboxamidyl]-N′-(1-Methyl-1H-indol-5-yl)-thiourea | 0.10 mmol, 41 mg | C(C)C1=C(C=C(C(=N1)C(=O)NNC(=S)NC=1C=C2C=CN(C2=CC1)C)OC)OC | C20H23N5O3S
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 5-(6-Ethyl-3,5-dimethoxy-pyridin-2-yl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazole-3-thiol | quantitative yield | C(C)C1=C(C=C(C(=N1)C=1N(C(=NN1)S)C=1C=C2C=CN(C2=CC1)C)OC)OC | C20H21N5O2S
